US05576322
5-Chloro-2-methanesulfonyl-1-(3,4-methylenedioxybenzyl)benzimidazole
2.3 g of the 6-chloro-2-methanesulfonylbenzimidazole was dissolved in 30 ml of dimethylformamide, followed by the addition of 480 mg of 60% sodium hydride and 2.04 g of piperonyl chloride under cooling with ice. The obtained mixture was maintained at 80° C. by heating for 4 hours, allowed to stand overnight and filtered to remove insolubles. The filtrate was concentrated in a vacuum and subjected to silica gel column chromatography to give the title compound.

reactant | 6-chloro-2-methanesulfonylbenzimidazole | 2.3 g | ClC=1C=CC2=C(N=C(N2)S(=O)(=O)C)C1 | C8H7ClN2O2S
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | piperonyl chloride | 2.04 g | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-2-methanesulfonyl-1-(3,4-methylenedioxybenzyl)benzimidazole | ClC1=CC2=C(N(C(=N2)S(=O)(=O)C)CC2=CC3=C(C=C2)OCO3)C=C1 | C16H13ClN2O4S
